US07632838B2
4-[3-chloro-4-({(2R)-4-[4-fluoro-2-(trifluoromethyl)phenyl]-2-methylpiperazin-1-yl}sulfonyl)phenyl]morpholine
A 5-mL microwave vial was charged with a stirbar, (2R)-1-[(4-bromo-2-chlorophenyl)sulfonyl]-4-[4-fluoro-2-(trifluoromethyl)phenyl]-2-methylpiperazine (250 mg, 0.49 mmol), Sodium tert-butoxide (77 mg, 0.74 mmol), BINAP (31 mg, 0.05 mmol), and Pd2(dba)3 (25 mg, 0.03 mmol). The vial was sealed and vacuum-purged with N2 three times. Toluene (2.0 mL) was then added under N2, followed by morpholine (0.05 mL, 0.53 mmol). The reaction mixture was heated to 75° C. under thermal conditions for 30 minutes, upon which the reaction was judged complete by LCMS. The reaction mixture was diluted with EtOAc (100 mL), and filtered through celite to remove inorganics. The filtrate was concentrated in vacuo and the crude product was directly loaded onto a SiO2 column and purified via normal phase chromatography (5%-50% EtOAc/Hexanes gradient), affording the desired compound in >95% purity. HRMS: calcd for C22H24ClF4N3O3S+H+, 522.12358. found ([M+H]+), 522.12358. HPLC Method 1: room temperature, 7.125 min, 100%. HPLC Method 2: room temperature, 7.664 min, 100%.

reactant | (2R)-1-[(4-bromo-2-chlorophenyl)sulfonyl]-4-[4-fluoro-2-(trifluoromethyl)phenyl]-2-methylpiperazine | 0.49 mmol, 250 mg | BrC1=CC(=C(C=C1)S(=O)(=O)N1[C@@H](CN(CC1)C1=C(C=C(C=C1)F)C(F)(F)F)C)Cl | C18H16BrClF4N2O2S
reactant | Sodium tert-butoxide | 0.74 mmol, 77 mg | CC(C)([O-])C.[Na+]
reactant | BINAP | 0.05 mmol, 31 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | morpholine | 0.53 mmol, 0.05 mL | N1CCOCC1 | C4H9NO
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
catalyst | Pd2(dba)3 | 0.03 mmol, 25 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-[3-chloro-4-({(2R)-4-[4-fluoro-2-(trifluoromethyl)phenyl]-2-methylpiperazin-1-yl}sulfonyl)phenyl]morpholine | ClC=1C=C(C=CC1S(=O)(=O)N1[C@@H](CN(CC1)C1=C(C=C(C=C1)F)C(F)(F)F)C)N1CCOCC1 | C22H24ClF4N3O3S
